US06326359B1
(2R,3R,4S,5R)-2-(6-[(2,2-Diphenylethyl)amino]-2-{[(1-methyl-4-piperidinyl)oxy]methyl}-9H-purin-9-yl)-5-(methoxymethyl)tetrahydro-3,4-furandiol
N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[(1-methyl-4-piperidinyl)oxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine (68 mg, 0.08 mmol) (preparation 49) was dissolved in stirred tetrahydrofuran (10 ml), then acetic acid (0.2 ml, 0.2 mmol) added followed by a 1 molar solution of tetra-n-butylammonium fluoride (0.2 ml, 0.2 mmol). The reaction mixture was stirred at room temperature for 1 hr and then more 1 molar solution of tetrabutylammonium fluoride (0.5 ml, 0.5 mmol) was added. The reaction mixture was stirred for another hour and then partitioned between saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The ethyl acetate phase was separated, washed with brine and dried with anhydrous sodium sulfate. This was evaporated to give a clear oil which was purified by column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (95:5) increasing in polarity to dichloromethane:methanol:ammonia (90:10:1) to give the title compound (20 mg) as a foam. MS: 589 (MH+).

reactant | N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[(1-methyl-4-piperidinyl)oxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine | 0.08 mmol, 68 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)COC1CCN(CC1)C | C44H68N6O5Si2
reactant | acetic acid | 0.2 mmol, 0.2 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 0.2 mmol, 0.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium fluoride | 0.5 mmol, 0.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2R,3R,4S,5R)-2-(6-[(2,2-Diphenylethyl)amino]-2-{[(1-methyl-4-piperidinyl)oxy]methyl}-9H-purin-9-yl)-5-(methoxymethyl)tetrahydro-3,4-furandiol | 20 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)COC1CCN(CC1)C)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)C1=CC=CC=C1 | C32H40N6O5
